US08071588B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}propanediamide
To the solution of 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid (0.0779 g, 0.200 mmol) in DCM (1 mL) was added 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperidinecarboxylate (0.0837 g, 0.220 mmol), HBTU (0.0910 g, 0.240 mmol), TEA (0.0563 mL, 0.400 mmol) and was stirred at room temperature for 16 hours. The reaction mixture was concentrated on Glas-Col evaporator, purified by Gilson HPLC and concentrated with Biotachi evaporator. The crude product was dissolved in DCM (0.6 mL) and TFA (0.2 mL) was added. The resultant mixture was left at room temperature for 1 hour before being concentrated on Glas-Col evaporator, purified by Gilson HPLC (with 0.1% TFA) and basified with amine cartridge to afford the title compound 0.0329 g (25.24%). LC-MS m/z 652 (M+H)+; 1H NMR (400 MHz, CD3OD) δ ppm 1.38 (t, J=7.65 Hz, 3H) 1.49 (t, J=7.28 Hz, 5H) 1.72-1.85 (m, 2H) 1.87-2.02 (m, 5H) 2.69 (d, J=6.78 Hz, 2H) 2.94 (td, J=12.80, 2.26 Hz, 2H) 3.05 (q, J=7.53 Hz, 2H) 3.37 (d, J=12.55 Hz, 2H) 3.59 (td, J=11.48, 2.13 Hz, 2H) 3.92 (dt, J=1.80, 3.51 Hz, 2H) 4.19-4.30 (m, 1H) 4.42-4.50 (m, 4H) 4.52 (s, 2H) 7.19 (d, J=7.53 Hz, 1H) 7.27-7.32 (m, 1H) 7.37 (td, J=7.59, 3.14 Hz, 2H) 7.44-7.52 (m, 3H) 7.57 (s, 1H) 8.24 (s, 1H).

reactant | 3-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-3-oxopropanoic acid | 0.200 mmol, 0.0779 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)O)=O)CC | C19H27N5O4
reactant | 1,1-dimethylethyl 4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-1-piperidinecarboxylate | 0.220 mmol, 0.0837 g | NCC=1C=C(C=CC1)C1=CC(=CC=C1)CC1CCN(CC1)C(=O)OC(C)(C)C | C24H32N2O2
reactant | HBTU | 0.240 mmol, 0.0910 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-{[3′-(4-piperidinylmethyl)-3-biphenylyl]methyl}propanediamide | 0.0329 g, 25.24% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CC(=O)NCC=2C=C(C=CC2)C2=CC(=CC=C2)CC2CCNCC2)=O)CC | C38H49N7O3
